US06716837B1
6-iodo-1-isopropyl-1H-indazole (compound 21)
Sodium hydride (85 mg, 60%, 2.12 mmol) was added to an ice-cooled solution of 6-iodo-1H-indazole (249.5 mg, 1.02 mmol) in DMF (2.5 mL). After stirring this mixture for 1 h at 0° C., 2-iodopropane (0.32 mL, 3.2 mmol) was added and the mixture stirred at 100° C. for 16 h. After the reaction mixture was partitioned between water and ethyl acetate, the organic layer was washed sequentially with water and brine, dried over sodium sulfate and the solvent removed in vacuo. Flash chromatography (silica gel, 5-20% ethyl acetate in hexane) yielded two products, the less polar 1-substituted-1H-indazole (105 mg) and the more polar 2-substituted indazolium (107.7 mg).

reactant | Sodium hydride | 2.12 mmol, 85 mg | [H-].[Na+]
reactant | 6-iodo-1H-indazole | 1.02 mmol, 249.5 mg | IC1=CC=C2C=NNC2=C1 | C7H5IN2
reactant | 2-iodopropane | 3.2 mmol, 0.32 mL | IC(C)C | C3H7I
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 6-iodo-1-isopropyl-1H-indazole | IC1=CC=C2C=NN(C2=C1)C(C)C | C10H11IN2
